US08809256B2
3-allyl-6-methylhept-5-en-2-ol
3-allyl-6-methylheptenone (20.0 g, 120 mmol) was dissolved in anhydrous THF (100 ml) and the solution cooled to −15° C. under stirring. A 3.5M solution of LiAlH4 (in THF/toluene, 12.0 ml, 42 mmol, 0.35 mol. eq.) was added dropwise under argon over 30 min. The reaction mixture was then stirred at −15° C. for 1 hour. The temperature was raised to 0° C., and the mixture carefully hydrolyzed by successive dropwise additions of water (1.60 g), 15% aqueous NaOH (1.60 g) and water (4.80 g), while keeping the reaction mixture at 0° C. The mixture was allowed to warm to room temperature, and the precipitate filtered. Evaporation of the solvent afforded the crude product. Fractional distillation though a 10 cm Vigreux column afforded the desired compound (16.94 g (83% yield).

reactant | 3-allyl-6-methylheptenone | 120 mmol, 20.0 g | C(C=C)C(C(C)=O)=CCC(C)C | C11H18O
reactant | LiAlH4 | 42 mmol, 12.0 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 1.60 g | O | H2O
reactant | NaOH | 1.60 g | [OH-].[Na+]
reactant | water | 4.80 g | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 3-allyl-6-methylhept-5-en-2-ol | 83% yield | C(C=C)C(C(C)O)CC=C(C)C | C11H20O
